US07977344B2
8-(Methoxy)-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-Pyran-4-ylmethyl)-9H-purin-6-amine
8-(Methoxy)-2-[(tetrahydro-2-furanylmethyl)oxy]-9H-purin-6-amine trifluoroacetate salt (0.30 g) was dissolved in dry DMF (5 mL). To this solution was added anhydrous potassium carbonate (0.4376 g) and then the reaction mixture was heated to 60° C. under nitrogen for 1 hour. The reaction mixture was then cooled to room temperature before adding tetrahydro-2H-pyran-4-ylmethyl methanesulfonate (0.1690 g) and then the resultant reaction mixture was heated to 90° C. for 2.5 hours. The reaction mixture was cooled and then quenched with water (50 mL), followed by extraction into ethyl acetate (50 mL, 3 times). After separating, the organic layers were combined and dried by passing through a hydrophobic frit. Evaporation under reduced pressure gave mobile oil which was then purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluent (10-45%). This gave the title compound as a white solid (0.1560 g).

reactant | 8-(Methoxy)-2-[(tetrahydro-2-furanylmethyl)oxy]-9H-purin-6-amine trifluoroacetate salt | 0.30 g | FC(C(=O)O)(F)F.COC=1NC2=NC(=NC(=C2N1)N)OCC1OCCC1
reactant | potassium carbonate | 0.4376 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydro-2H-pyran-4-ylmethyl methanesulfonate | 0.1690 g | CS(=O)(=O)OCC1CCOCC1 | C7H14O4S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-(Methoxy)-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-Pyran-4-ylmethyl)-9H-purin-6-amine | 0.1560 g | COC=1N(C2=NC(=NC(=C2N1)N)OCC1OCCC1)CC1CCOCC1 | C17H25N5O4
